US08580962B2
3-Phenylprop-2-ynal oxime (Compound 1a)
A mixture of phenylpropargylaldehyde (859 mg, 6.6 mmol), hydroxylamine hydrochloride (4.59 g, 66 mmol), EtOH (48 mL) and water (12 mL) was stirred at r.t. for 24 h. The reaction mixture was diluted with H2O, extracted with Et2O-EtOAc, washed with brine and evaporated to dryness in vacuo affording 0.96 g of the title compound (syn:anti 1:1) as a pasty brownish solid.

reactant | phenylpropargylaldehyde | 6.6 mmol, 859 mg | C1(=CC=CC=C1)C#CC=O | C9H6O
reactant | hydroxylamine hydrochloride | 66 mmol, 4.59 g | Cl.NO
reactant | EtOH | 48 mL | CCO | C2H6O
solvent | H2O | O | H2O
solvent | water | 12 mL | O | H2O
product | 3-Phenylprop-2-ynal oxime | 0.96 g | C1(=CC=CC=C1)C#CC=NO | C9H7NO
